US08735414B2
1,3-difluoro-2-propanol (60.75 g, 633 mmol) was dissolved in pyridine (375 mL) at 0° C. Tosyl chloride (134 g, 700 mmol) was added in portions and stirred overnight at room temperature. Pyridine was removed under reduced pressure and the residue was diluted with ethyl acetate. The mixture was washed sequentially with dilute aqueous HCl, water, sat. aq. NaHCO3 and brine. The organic layer was dried over MgSO4, filtered and concentrated. The residue was cooled to −78° C. until crystals began to form. The material was triturated with ice-cold hexane (2×200 mL) and filtered to provide O-Tosyl-1,3-difluoro-2-propanol as a white low-melting solid (143.9 g, 91%).

reactant | 1,3-difluoro-2-propanol | 633 mmol, 60.75 g | FCC(CF)O | C3H6F2O
reactant | Tosyl chloride | 700 mmol, 134 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 375 mL | N1=CC=CC=C1 | C5H5N
product | O-Tosyl-1,3-difluoro-2-propanol | 143.9 g, 91% | S(=O)(=O)(C1=CC=C(C)C=C1)OC(CF)CF | C10H12F2O3S
